US07553833B2
In a manner similar to the method described in example 2 (method A), rac-(1R,2S,6S)-6′-chloro-2-(3-chlorophenyl)-6-methoxyspiro[cyclohexane-1,3′-[3H]indole]-2′,4(1′H)-dione (156 mg, 0.4 mmol) was reacted with NaN3 (52 mg, 0.8 mmole) in the presence of TiCl4 (1.0 M in CH2Cl2, 0.8 mL) (Aldrich) in acetonitrile (10 mL) to give rac-(3S,4R,5S)-6′-chloro-3-(3-chlorophenyl)-1,1′,2,2′,3,5,6,7-octahydro-5-methoxy-spiro[4H-azepine-4,3′-[3H]-indole]-2′,7-dione (25.3 mg): HRMS (ES+) m/z Calcd for C20H18Cl2N2O3+H [(M+H)+]: 405.0767, found: 405.0765 and rac-(3R,4R,5S)-6′-chloro-5-(3-chlorophenyl)-1,1′,2,2′,3,5,6,7-octahydro-3-methoxy-spiro[4H-azepine-4,3′-[3H]-indole]-2′,7-dione: HRMS (ES+) m/z Calcd for C20H18Cl2N2O3+H [(M+H)+]: 405.0767, found: 405.0768.

reactant | rac-(1R,2S,6S)-6′-chloro-2-(3-chlorophenyl)-6-methoxyspiro[cyclohexane-1,3′-[3H]indole]-2′,4(1′H)-dione | 0.4 mmol, 156 mg | ClC1=CC=C2C3(C(NC2=C1)=O)C(CC(CC3OC)=O)C3=CC(=CC=C3)Cl | C20H17Cl2NO3
reactant | NaN3 | 0.8 mmole, 52 mg | [N-]=[N+]=[N-].[Na+]
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
catalyst | TiCl4 | 1.0 M, 0.8 mL | Cl[Ti](Cl)(Cl)Cl
product | rac-(3S,4R,5S)-6′-chloro-3-(3-chlorophenyl)-1,1′,2,2′,3,5,6,7-octahydro-5-methoxy-spiro[4H-azepine-4,3′-[3H]-indole]-2′,7-dione | 25.3 mg | ClC1=CC=C2C3(C(NC2=C1)=O)C(CNC(CC3OC)=O)C3=CC(=CC=C3)Cl | C20H18Cl2N2O3
